US09447091B2
N-(5-(5-(2-aminothiazol-5-yl)-1H-benzo[d]imidazol-1-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)acetamide
To a solution of N-(5-(5-(2-bromoacetyl)-1H-benzo[d]imidazol-1-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)acetamide (100 mg, 0.20 mmol) in ethanol was added thiourea (20 mg, 0.30 mmol, 1.5 eq). The mixture was stirred at 60° C. for 3 h. The mixture was quenched and extracted as in Example 1(d). The solvent was distilled off to give the crude residue which was purified by preparative HPLC to give the product in 14.7% yield (14 mg). 1H NMR (300 MHz, CD3OD): δ 8.73 (s, 1H), 8.11 (s, 1H), 8.01 (s, 1H), 7.73-7.69 (m, 2H), 7.62-7.50 (m, 2H), 7.45 (d, 1H), 7.10-6.99 (m, 3H), 2.10 (s, 3H); LC-MS (ESI): Calculated mass: 461.4; Observed mass: 462.1 [M+H]+ (rt: 0.80 min).

reactant | N-(5-(5-(2-bromoacetyl)-1H-benzo[d]imidazol-1-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)acetamide | 0.20 mmol, 100 mg | BrCC(=O)C1=CC2=C(N(C=N2)C=2C=C(C=C(C2)C2=C(C=C(C=C2)F)F)NC(C)=O)C=C1 | C23H16BrF2N3O2
reactant | thiourea | 0.30 mmol, 20 mg, 1.5 eq | NC(=S)N | CH4N2S
solvent | ethanol | C(C)O | C2H6O
product | N-(5-(5-(2-aminothiazol-5-yl)-1H-benzo[d]imidazol-1-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)acetamide | 14.7% yield | NC=1SC(=CN1)C1=CC2=C(N(C=N2)C=2C=C(C=C(C2)C2=C(C=C(C=C2)F)F)NC(C)=O)C=C1 | C24H17F2N5OS
